US07772264B2
This example was run in an analogous manner as example 5 but using 6.00 g (30 mmol) of (5-Methyl-2-phenyl-oxazol-4-yl)-acetonitrile in the presence of 0.60 g of wet Raney Cobalt catalyst (Johnson Matthey 8B0022, wet, ca. 50 weight %) in the presence of 50 mg of sodium acetate as modifier in a 185 mL autoclave at 70° C. under 9 bar of hydrogen pressure for 1.5 h. Removal of the catalyst by filtration, evaporation of the solvents and drying (50° C./10 mbar/2 h) afforded 6.27 g of 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethylamine with a purity of 89.3% (HPLC area %).

reactant | (5-Methyl-2-phenyl-oxazol-4-yl)-acetonitrile | 30 mmol, 6.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)CC#N | C12H10N2O
reactant | sodium acetate | 50 mg | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | Cobalt | [Co] | Co
product | 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethylamine | 6.27 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCN | C12H14N2O
